US07307094B2
Preparation of N-(9-Methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(4-methylthiazol-5-yl)benzoxazole-4-carboxamide Hydrochloride
A mixture of 2-(4-methylthiazol-5-yl)benzoxazole-4-carboxylic acid (60 mg, 0.23 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (88 mg, 0.46 mmol), 1-hydroxybenzotriazole (62 mg, 0.46 mmol) and 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride (65 mg, 0.29 mmol) in DMF (5 mL) was stirred at room temperature for 10 min, then triethylamine (0.29 mL, 2.11 mmol) was added. The resulting reaction mixture was stirred at room temperature overnight. The mixture was diluted with ethyl acetate and then washed with a saturated solution of sodium bicarbonate. The aqueous layer was further extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with brine (2×100 mL), dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 dichloromethane/methanol/concentrated ammonium hydroxide) and recrystallization from acetonitrile to afford the desired product (57 mg, 63%) as a light yellow solid: 1H NMR (300 MHz, CDCl3) δ 8.92 (br s, 1H), 8.90 (s, 1H), 8.22 (dd, J=7.8, 1.0 Hz, 1H), 7.69 (dd, J=8.1, 1.0 Hz, 1H), 7.48 (t, J=8.0 Hz, 1H), 4.70-4.57 (m, 1H), 3.25-3.10 (m, 2H), 3.10 (s, 3H), 2.75-2.60 (m, 2H), 2.57 (s, 3H), 2.15-1.95 (m, 3H), 1.65-1.45 (m, 3H), 1.25-1.10 (m, 2H); MS (ESI+) m/z 397 (M+H).

reactant | 2-(4-methylthiazol-5-yl)benzoxazole-4-carboxylic acid | 0.23 mmol, 60 mg | CC=1N=CSC1C=1OC=2C(N1)=C(C=CC2)C(=O)O | C12H8N2O3S
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.46 mmol, 88 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 0.46 mmol, 62 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | 0.29 mmol, 65 mg | Cl.Cl.NC1CC2CCCC(C1)N2C
reactant | triethylamine | 2.11 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(9-Methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(4-methylthiazol-5-yl)benzoxazole-4-carboxamide Hydrochloride | 57 mg, 63% | Cl.CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=C(N=CS1)C | InChI=1S/C21H24N4O2S.ClH/c1-12-19(28-11-22-12)21-24-18-16(7-4-8-17(18)27-21)20(26)23-13-9-14-5-3-6-15(10-13)25(14)2;/h4,7-8,11,13-15H,3,5-6,9-10H2,1-2H3,(H,23,26);1H
